.subckt ib_nmir4 NB n1 n2 VBCPD VSS
XMN0 NB    NB VSS VSS nfet_03v3 L=2u W=4u nf=1 m=24
XMN1 n1    NB VSS VSS nfet_03v3 L=2u W=4u nf=1 m=5
XMN2 n2    NB VSS VSS nfet_03v3 L=2u W=4u nf=1 m=24
XMNB VBCPD NB VSS VSS nfet_03v3 L=2u W=4u nf=1 m=2
XMDUM VSS   NB VSS VSS nfet_03v3 L=2u W=4u nf=1 m=4
.ends ib_nmir4
